datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][S:2][H:4])[H:3].[C:5]([C:6]([C:7](=[S:8])[H:13])[H:12])([H:9])([H:10])[H:11]>>[C:0](#[C:1][S:2])[H:3].[H:4][C:6]([C:5]([H:9])([H:10])[H:11])([C:7](=[S:8])[H:13])[H:12],22.5936
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])=[C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[H:9])([H:7])[H:8].[C:17](=[C:18][C:19]([H:22])([H:23])[H:24])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([C:5]([C:6]([H:14])([H:15])[H:16])[H:13])[C:18](=[C:17]([H:20])[H:21])[C:19]([H:22])([H:23])[H:24])[H:9])([H:7])[H:8],16.0247
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7]([S:8])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][S:8][C:7]([H:9])([H:10])[H:11],-2.5104
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[C:6]([S:7][H:11])([H:8])([H:9])[H:10]>>[C:0](#[C:1][C:2]([H:4])([H:5])[S:7][H:11])[H:3].[C:6]([H:8])([H:9])[H:10],88.7008
[C:0]([C:1]([O:2][H:9])([O:3][O:4])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([O:2][H:9])[O:3][O:4][H:8])([H:5])([H:6])[H:7],154.18
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[H:15])[H:9])[H:8])([H:6])[H:7].[C:16]([C:17]([C:18]([H:23])([H:24])[H:25])[H:22])([H:19])([H:20])[H:21]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:17]([C:16]([H:19])([H:20])[H:21])([C:18]([H:23])([H:24])[H:25])[H:22])[H:9])[H:8])([H:6])[H:7],13.2633
[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])([H:6])[H:7])[H:5].[C:9](#[C:10][C:11]=[C:12]([H:14])[H:15])[H:13]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:8])[H:7])[H:5].[H:6][C:11]([C:10]#[C:9][H:13])=[C:12]([H:14])[H:15],9.2048
[C:0]([C:1](=[S:2])[H:6])([H:3])([H:4])[H:5].[C:7]([C:8]([C:9](=[S:10])[H:15])[H:14])([H:11])([H:12])[H:13]>>[C:0]([C:1]=[S:2])([H:3])([H:4])[H:5].[H:6][C:8]([C:7]([H:11])([H:12])[H:13])([C:9](=[S:10])[H:15])[H:14],85.772
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7](=[C:8]([C:9]([H:24])([H:25])[H:26])[H:23])[H:22])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])[H:13])[H:12])([H:10])[H:11]>>[C:0](=[C:1]([C:2]1([H:13])[C:3]([H:14])([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]1([C:8]([C:9]([H:24])([H:25])[H:26])[H:23])[H:22])[H:12])([H:10])[H:11],71.2117
[C:0](=[C:1]([C:2](=[C:3]([H:7])[H:8])[H:6])[H:5])[H:4].[O:9][H:10]>>[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[H:6])[H:4].[H:5][O:9][H:10],0.0
[C:0](=[C:1]([C:2](=[O:3])[H:7])[H:6])([H:4])[H:5].[C:8]([C:9]([C:10]([H:17])([H:18])[H:19])([O:11][O:12])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]=[O:3])[H:6])([H:4])[H:5].[H:7][O:12][O:11][C:9]([C:8]([H:13])([H:14])[H:15])([C:10]([H:17])([H:18])[H:19])[H:16],56.9024
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:6])([H:7])[H:8].[H:20]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8].[H:6][H:20],28.267104
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[c:20]1[c:21]([H:26])[c:22]([H:27])[c:23]([H:28])[c:24]([H:29])[c:25]1[H:30])[H:10])([H:8])[H:9],-10.8784
[S:0]=[C:1]([S:2][H:4])[H:3].[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[H:3][c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15].[S:0]=[C:1][S:2][H:4],-21.3384
[C:0]#[C:1][H:2].[c:3]1([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14]>>[C:0](#[C:1][H:2])[H:9].[c:3]1[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]([H:13])[c:8]1[H:14],0.0
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5]#[C:6][H:7]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:5]#[C:6][H:7],2.092
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[O:7][O:8][H:19])([H:9])[H:10]>>[C:0]1([H:9])([H:10])[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:18])([H:16])[H:17])([H:14])[H:15])[O:7]1.[O:8][H:19],40.1664
[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])([H:4])[H:5].[C:10]([H:11])([H:12])[H:13]>>[C:0](=[C:1]=[C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:5].[H:4][C:10]([H:11])([H:12])[H:13],27.65624
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([H:6])[H:7])([H:3])([H:4])[H:5].[C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[H:7])([H:3])([H:4])[H:5].[H:6][C:11]([C:12]([H:15])([H:16])[H:17])([H:13])[H:14],29.288
[C:0](=[C:1]([H:3])[H:4])[H:2].[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15]>>[C:0](=[C:1]([H:3])[H:4])([H:2])[c:5]1[c:6]([H:11])[c:7]([H:12])[c:8]([H:13])[c:9]([H:14])[c:10]1[H:15],22.0334
